* ldo_2 -- loop response, min load on TSMC16 BSIM-CMG
* Measurement set is AnalogGym's TB_LDO_ACDC / TB_LDO_Tran.
.include ./tsmc16_models.spice
.include ./netlist.spice

.PARAM supply_voltage = 0.8
.PARAM Vref = 0.6
.PARAM VOUT_NOM = 0.6
V2 vss 0 0
Vindc vref_in 0 'Vref'
V1 vdd 0 'supply_voltage'
.nodeset V(vo)=0.6
x1 0 vdd vref_in vo vo_fb vo_inp vo_ib ldo_2
.nodeset V(x1.net42)=0.304 V(vo_ib)=0.392
I1_b vdd vo_ib 5e-06
CL vo 0 1e-07
Iload vo 0 0.005
Vin signal_in 0 dc 'Vref' ac 1
Lfb vo_inp vo_fb 1T
Cfb vo_inp signal_in 1T
.meas ac dcgain_min find vdb(vo) at=0.1
.meas ac gbw_min when vdb(vo)=0
.meas ac ph_rad_min find vp(vo) when vdb(vo)=0
.meas ac pm_min param='abs(ph_rad_min)*180/3.1416'
.end
